datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([C:8]([C:9]([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])([H:22])[H:23])([H:20])[H:21])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([H:20])([H:21])[C:8]([H:22])([H:23])[C:9]1([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])[H:13],97.8219
[C:0](=[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:24])[H:25])[H:23])=[C:9]([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])([H:21])[H:22])([H:19])[H:20])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]1([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[C:5]([H:21])([H:22])[C:6]([C:7](=[C:8]([H:24])[H:25])[H:23])[C:9]1([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])[H:15])([H:13])[H:14],101.002
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])[H:15])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19],114.558
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][H:19]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:17][O:18][H:19],57.40448
[O:0]([O:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[O:5][C:6]([H:14])([H:15])[C:7]1([H:16])[H:17])[H:8]>>[O:0][H:8].[O:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[O:5][C:6]([H:14])([H:15])[C:7]1([H:16])[H:17],174.0544
[C:0](#[C:1][H:3])[H:2].[C:4](=[C:5]=[C:6]=[C:7]=[C:8]([H:10])[H:11])[H:9]>>[C:0](=[C:1][H:3])([H:2])[C:4](=[C:5]=[C:6]=[C:7]=[C:8]([H:10])[H:11])[H:9],86.73432
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[S:9]=[C:10][S:11][H:12]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10](=[S:9])[S:11][H:12],71.128
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([C:14]([H:25])([H:26])[H:27])=[C:15]([c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:28])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:15]([C:13]([C:12]([H:22])([H:23])[H:24])[C:14]([H:25])([H:26])[H:27])([c:16]1[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]([H:32])[c:21]1[H:33])[H:28])[H:5],43.5554
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24](=[C:25][C:26]([H:29])([H:30])[H:31])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:25](=[C:24]([H:27])[H:28])[C:26]([H:29])([H:30])[H:31])[H:14])([H:12])[H:13],11.6315
[O:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]12)[H:11].[O:19][H:20]>>[H:11][O:19][H:20].[O:0][c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]12,-4.778128
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5](=[C:6]([H:10])[H:11])[C:7]([H:12])([H:13])[H:14])([H:8])[H:9]>>[C:0](=[O:1])[H:3].[H:2][C:4]([C:5](=[C:6]([H:10])[H:11])[C:7]([H:12])([H:13])[H:14])([H:8])[H:9],51.12848
[N:0]([N:1]([H:4])[H:5])([H:2])[H:3].[O:6][H:7]>>[H:2][O:6][H:7].[N:0]([N:1]([H:4])[H:5])[H:3],-2.7196
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[c:26]1[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]([H:35])[c:31]1[H:36]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[c:26]1[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]([H:35])[c:31]1[H:36],4.05848
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20]([C:21]([C:22]([H:32])([H:33])[H:34])[c:23]1[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]1[H:39])([H:29])([H:30])[H:31]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:21]([C:20]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[c:23]1[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]([H:38])[c:28]1[H:39])([H:10])[H:11],54.5175
[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5]>>[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[H:6],112.968
